US04254132
46 g (0.123 mol) of 1-(4-chlorophenoxy)-1-(1,2,4-triazol-1-yl)-3,3-dimethyl-butane-2,4-diol were warmed to 50° C. with 16 g (0.205 mol) of acetyl chloride for about 16 hours. Therefore, 500 ml of methylene chloride and then 1,000 ml of saturated sodium bicarbonate solution were added. The mixture was stirred at room temperature for 1 hour and the organic phase was separated off, washed twice with 500 ml of water each time, dried over sodium sulphate and concentrated by distilling off the solvent in vacuo. The oil which remained was taken up in 300 ml of acetone, and 23 g of naphthalene-1,5-disulphonic acid were added. The precipitate which formed was filtered off and taken up in 600 ml of methylene chloride and the methylene chloride mixture was neutralized with 1,000 ml of saturated sodium bicarbonate solution. The organic phase was separated off, washed twice with 500 ml of water each time and dried over sodium sulphate. Thereafter, it was concentrated by distilling off the solvent in vacuo. The oil which remained crystallized after adding 100 ml of diisopropyl ether. 14 g (29% of theory) of 1-(4-chlorophenoxy)-1-(1,2,4-triazol-1-yl)-3,3-dimethyl-2,4-diacetoxy-butane of melting point 84°-87° C. were obtained.

reactant | 1-(4-chlorophenoxy)-1-(1,2,4-triazol-1-yl)-3,3-dimethyl-butane-2,4-diol | 0.123 mol, 46 g | ClC1=CC=C(OC(C(C(CO)(C)C)O)N2N=CN=C2)C=C1 | C14H18ClN3O3
reactant | acetyl chloride | 0.205 mol, 16 g | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | 1,000 ml | C([O-])(O)=O.[Na+]
reactant | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorophenoxy)-1-(1,2,4-triazol-1-yl)-3,3-dimethyl-2,4-diacetoxy-butane | 14 g, 29% | ClC1=CC=C(OC(C(C(COC(C)=O)(C)C)OC(C)=O)N2N=CN=C2)C=C1 | C18H22ClN3O5
